US06472412B1
A solution of methyl 6-methoxy-5-nitronicotinate (5.4 g) in ethyl acetate (120 mL) is hydrogenated using 5% palladium on carbon (1 g) as catalyst. When hydrogen uptake ceased the mixture is filtered through a pad of diatomaceous earth and the filtrate evaporated. The residue is triturated with n-pentane and methyl t-butyl ether to give methyl 5-amino-6-methoxynicotinoate (4.3 g) as a light-brown solid, m.p.108-9° C. [Elemental analysis: C, 52.99; H, 5.49; N, 15.25%. calculated: C, 52.74; H, 5.53; N, 15.38%.]

reactant | methyl 6-methoxy-5-nitronicotinate | 5.4 g | COC1=NC=C(C(=O)OC)C=C1[N+](=O)[O-] | C8H8N2O5
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 120 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 1 g | [Pd] | Pd
product | methyl 5-amino-6-methoxynicotinoate | 4.3 g | NC=1C(=NC=C(C(=O)OC)C1)OC | C8H10N2O3
